US04988681
Under a nitrogen atmosphere, 0.23 g (10 millimoles) of metallic sodium was dissolved in 20 ml of dry ethanol. The solution was cooled to 0° C., and 1.22 g (10 millimoles) of ethyl ethylphosphinate and then 2.40 g (10 millimoles) of ethyl 2-diethoxyphosphinoylpropenoate were added. The mixture was stirred at 0° C. for 1 hour. Cyclohexanecarbaldehyde (1.20 ml; 9.9 millimoles) was added to the mixture, and the reaction was carried out at room temperature for 3 days. Fifty milliliters of a saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was extracted three times with 50 ml of ethyl acetate each time. The organic layers were washed with 30 ml of a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure liquid chromatography Lobar column (a product of E. Merck & Co.), size C, Lichroprep SI 60, ethyl acetate. The first fraction was evaporated to give 0.33 g (yield 10%) of ethyl (Z)-3-cyclohexyl-2-(ethoxyethylphosphinoyl)methylpropenoate as a colorless oil.

reactant | sodium | 10 millimoles, 0.23 g | [Na] | Na
reactant | ethyl ethylphosphinate | 10 millimoles, 1.22 g | C(C)P(OCC)=O | C4H11O2P
reactant | ethyl 2-diethoxyphosphinoylpropenoate | 10 millimoles, 2.40 g | C(C)OP(=O)(C(C(=O)OCC)=C)OCC | C9H17O5P
reactant | Cyclohexanecarbaldehyde | 9.9 millimoles, 1.20 ml | C1(CCCCC1)C=O | C7H12O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl (Z)-3-cyclohexyl-2-(ethoxyethylphosphinoyl)methylpropenoate | 0.33 g, yield 10% | C1(CCCCC1)\C=C(\C(=O)OCC)/CP(=O)CCOCC | C16H29O4P
